US04180583
4-[4-(Diphenylmethylene)piperidino]butyrophenone hydrochloride
To 22.5 g (0.05 mole) of 4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]butyrophenone hydrochloride in 300 ml of butanone was added 200 ml of concentrated HCl. The mixture was refluxed with stirring for 2 hours then allowed to stir overnight at room temperature. The mixture was refluxed with stirring an additional 2 hours after which the solvent was removed. The remaining residue was recrystallized from butanone and butanone-diethyl ether to give the desired product, M.P. 160°-161.5° C.

reactant | 4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]butyrophenone hydrochloride | 0.05 mole, 22.5 g | Cl.OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCN(CC1)CCCC(=O)C1=CC=CC=C1
reactant | HCl | 200 ml | Cl | ClH
solvent | butanone | 300 ml | CC(CC)=O | C4H8O
product | 4-[4-(Diphenylmethylene)piperidino]butyrophenone hydrochloride | Cl.C1(=CC=CC=C1)C(=C1CCN(CC1)CCCC(=O)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H29NO.ClH/c30-27(23-11-4-1-5-12-23)17-10-20-29-21-18-26(19-22-29)28(24-13-6-2-7-14-24)25-15-8-3-9-16-25;/h1-9,11-16H,10,17-22H2;1H
